US04546101
Nicotinaldehyde (32.1 g) was added to a solution of [4-benzhydryloxycarbonyl-7-(2-phenylacetamido)-3-cephem-3-ylmethyl]triphenylphosphonium bromide (84.0 g) in a mixture of tetrahydrofuran (800 ml) and water (400 ml) and the solution was adjusted to pH 9.0 with 20% aqueous sodium carbonate. The solution was stirred at ambient temperature for 2 hours under keeping the pH 8.8 to 9.2 with 20% aqueous potassium carbonate. Ethyl acetate (800 ml) and water (800 ml) were added to the resulting solution. The separated organic layer was washed with saturated aqueous sodium chloride and dried over magnesium sulfate. The crude product obtained by concentration was purified by silica gel column chromatography using a mixture of acetone and dichloromethane (1:1 U/U) as eluent. The eluted fraction was evaporated to give benzhydryl 7-(2-phenylacetamido)-3-[2-(3-pyridyl)vinyl]-3-cephem-4-carboxylate (cis-trans mixture) (28.5 g).

reactant | Nicotinaldehyde | 32.1 g | C(C1=CN=CC=C1)=O | C6H5NO
reactant | [4-benzhydryloxycarbonyl-7-(2-phenylacetamido)-3-cephem-3-ylmethyl]triphenylphosphonium bromide | 84.0 g | [Br-].C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C(C2NC(CC2=CC=CC=C2)=O)=O)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
solvent | water | 400 ml | O | H2O
solvent | water | 800 ml | O | H2O
solvent | Ethyl acetate | 800 ml | C(C)(=O)OCC | C4H8O2
product | benzhydryl 7-(2-phenylacetamido)-3-[2-(3-pyridyl)vinyl]-3-cephem-4-carboxylate | 28.5 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C=CC=2C=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C35H29N3O4S
